US04548951
A. Preparation of 2-(p-Methoxyphenethyl)-5-(2,2-Dimethyl-1,3-Benzoxathiol-5-yl)Hydroxymethyl Pyrrolidine Hydrochloride
Excess 3% hydrogen chloride in methanol is added to a solution of 1.0 g 2-(p-methoxyphenethyl)-5-(2,2-dimethyl-1,3-benzoxathiol-5-yl)hydroxymethylpyrrolidine in 20 ml of methanol. Diethyl ether is added until precipitation is complete. 2-(p-methoxyphenethyl)-5-(2,2-dimethyl-1,3-benzoxathiol-5-yl)hydroxymethylpyrrolidine hydrochloride is filtered, washed with ether, air dried and recrystallized.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-(p-methoxyphenethyl)-5-(2,2-dimethyl-1,3-benzoxathiol-5-yl)hydroxymethylpyrrolidine | 1.0 g | COC1=CC=C(CCC2N(C(CC2)C=2C=CC3=C(SC(O3)(C)C)C2)CO)C=C1 | C23H29NO3S
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2-(p-Methoxyphenethyl)-5-(2,2-Dimethyl-1,3-Benzoxathiol-5-yl)Hydroxymethyl Pyrrolidine Hydrochloride | Cl.COC1=CC=C(CCC2N(C(CC2)C=2C=CC3=C(SC(O3)(C)C)C2)CO)C=C1 | InChI=1S/C23H29NO3S.ClH/c1-23(2)27-21-13-7-17(14-22(21)28-23)20-12-9-18(24(20)15-25)8-4-16-5-10-19(26-3)11-6-16;/h5-7,10-11,13-14,18,20,25H,4,8-9,12,15H2,1-3H3;1H
